US08703805B2
A mixture of 5-(5-bromo-thiophen-2-yl)-1-(2-chloro-phenyl)-1H-pyrazole-3-carboxylic acid methyl ester (8.0 g, 20 mmol), 3-methylsulfonylphenylboronic acid (5.0 g, 24 mmol), sodium carbonate (6.0 g, 56 mmol) and palladium tetrakis(triphenylphosphine) (1.2 g, 1.04 mmol) in 1,4-dioxane (100 mL) and H2O (5 mL) was stirred at 90° C. under N2 for 16 h. Solid was filtered off and washed with ethyl acetate. The filtrate was concentrated under vacuum to give a residue, which was partitioned between ethyl acetate and water. The aqueous layer was separated and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and evaporated to give a crude. It was triturated by DCM to afford 1-(2-chloro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1H-pyrazole-3-carboxylic acid methyl ester (4.8 g). The mother liquors from trituration were combined and concentrated to give a solid, which was purified by flash chromatography on silica gel eluted with EtOAc-hexane (0-60%) to afford another 2.8 g of product. The total yield was 7.6 g (80%). 1H-NMR (CDCl3): δ 8.04 (m, 1H), 7.84 (m, 1H), 7.73 (m, 1H), 7.50-7.58 (m, 4H), 7.47 (m, 1H), 7.23 (d, 1H), 7.20 (s, 1H), 6.82 (d, 1H), 3.98 (s, 3H), 3.07 (s, 3H).

reactant | 5-(5-bromo-thiophen-2-yl)-1-(2-chloro-phenyl)-1H-pyrazole-3-carboxylic acid methyl ester | 20 mmol, 8.0 g | COC(=O)C1=NN(C(=C1)C=1SC(=CC1)Br)C1=C(C=CC=C1)Cl | C15H10BrClN2O2S
reactant | 3-methylsulfonylphenylboronic acid | 24 mmol, 5.0 g | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | sodium carbonate | 56 mmol, 6.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 5 mL | O | H2O
catalyst | palladium tetrakis(triphenylphosphine) | 1.04 mmol, 1.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 1-(2-chloro-phenyl)-5-[5-(3-methanesulfonyl-phenyl)-thiophen-2-yl]-1H-pyrazole-3-carboxylic acid methyl ester | 4.8 g | COC(=O)C1=NN(C(=C1)C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C1=C(C=CC=C1)Cl | C22H17ClN2O4S2
